US07495103B2
A mixture of 1,2,3,4-Tetrahydro-7-nitroisoquinoline (2.5 g, 11.6 mmol), 1,4-dioxane (24 mL), H2O (12 mL) and 1N NaOH (12 mL) was cooled in an ice-bath, and Boc2O (2.8 g, 12.8 mmol) was added. The mixture was stirred at room temperature for 2.5 h, acidified with a 5% KHSO4 solution to pH 2-3, and then extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated to give tert-butyl 3,4-dihydro-7-nitroisoquinoline-2(1H)-carboxylate (3.3 g, quant.), which was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ 8.13 (d, J=2.3 Hz, 1H), 8.03 (dd, J=8.4, 2.5 Hz, 1H), 7.45 (d, J=8.5 Hz, 1H), 4.63 (s, 2H), 3.60-3.57 (m, 2H), 2.90 (t, J=5.9 Hz, 2H), 1.44 (s, 9H); HPLC ret. time 3.51 min, 10-99% CH3CN, 5 min run; ESI-MS 279.2 m/z (MH+).

reactant | 1,2,3,4-Tetrahydro-7-nitroisoquinoline | 11.6 mmol, 2.5 g | [N+](=O)([O-])C1=CC=C2CCNCC2=C1 | C9H10N2O2
reactant | NaOH | 1N, 12 mL | [OH-].[Na+]
reactant | Boc2O | 12.8 mmol, 2.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | H2O | 12 mL | O | H2O
solvent | 1,4-dioxane | 24 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3,4-dihydro-7-nitroisoquinoline-2(1H)-carboxylate | 3.3 g | [N+](=O)([O-])C1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C | C14H18N2O4
